US09163020B2
6-fluoro-N-(2-fluoroethyl)-1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxamide
See FIG. 20(c). 6-fluoro-1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid (20 mg, 0.06 mmol) and 2-fluoroethanamine (7.18 mg, 0.11 mmol), TEA (0.026 mL, 0.19 mmol) was added. After 3 min, 1-Propanephosphonic acid cyclic anhydride (50.3 mg, 0.16 mmol) was added. The resulting reaction mixture was stirred at rt for 50 min. LCMS analysis showed formation of required product. Reaction was diluted with DCM and water.DCM layer was extracted and washed with brine and dried over sodium sulphate and concentrated. Purification was done on Waters RP system to get product 6-fluoro-N-(2-fluoroethyl)-1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxamide (20.00 mg, 88%). ES+MS m/z: 362. 1H NMR (300 MHz, DMSO-d6) δ ppm 2.24 (s, 3 H ) 3.57-3.70 (q, 1 H ) 3.70-3.80 (q, 1 H ) 3.94 (s, 3 H ) 4.43-4.58 (t, 1 H ) 4.66 (t, J=4.99 Hz, 1 H ) 5.68 (s, 2 H ) 8.03 (dd, J=9.89, 2.54 Hz, 1 H ) 8.29 (s, 6 H ) 8.40 (s, 1 H ) 8.53 (t, J=2.07 Hz, 1 H ) 8.71 (t, J=5.84 Hz, 1 H ).

reactant | 6-fluoro-1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid | 0.06 mmol, 20 mg | FC=1C=C2C(=NC1)C(=CN2CC2=NC=NC(=C2C)OC)C(=O)O | C15H13FN4O3
reactant | 2-fluoroethanamine | 0.11 mmol, 7.18 mg | FCCN | C2H6FN
reactant | 1-Propanephosphonic acid cyclic anhydride | 0.16 mmol, 50.3 mg | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
product | 6-fluoro-N-(2-fluoroethyl)-1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-1H-pyrrolo[3,2-b]pyridine-3-carboxamide | FC=1C=C2C(=NC1)C(=CN2CC2=NC=NC(=C2C)OC)C(=O)NCCF | C17H17F2N5O2
